US06476053B1
1-Nonyl-3-(nonylamino)pyrrolidine-2,5-dione
A mixture of N-nonyl maleimide (0.01 M) prepared as described in Example 12 above, nonylamine (0.01 M), triethylamine [catalytic, 0.1 equivalent] in acetonitrile (25 ml) was stirred for 24 hours at room temperature. Acetonitrile was removed under vacuum to leave a residual liquid product which was flash chromatographed (25% ethyl acetate in petroleum ether) to yield a white solid as the desired product.

reactant | N-nonyl maleimide | 0.01 M | C(CCCCCCCC)N1C(C=CC1=O)=O | C13H21NO2
reactant | nonylamine | 0.01 M | C(CCCCCCCC)N | C9H21N
reactant | triethylamine | 0.1 equivalent | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-Nonyl-3-(nonylamino)pyrrolidine-2,5-dione | C(CCCCCCCC)N1C(C(CC1=O)NCCCCCCCCC)=O | C22H42N2O2
